US07291631B2
Using General Procedure B: Reaction of 2-(4-oxo-pentyl)-isoindole-1,3-dione (Abdel-Monem, MM et al. J. Med. Chem. 1974, 17, 447-451) in CH2Cl2 and 1-pyridin-2-yl-ethylamine with NaBH(OAc)3 gave 2-[4-(1-pyridin-2-yl-ethylamino)-pentyl]-isoindole-1,3-dione as a colorless oil.

reactant | 2-(4-oxo-pentyl)-isoindole-1,3-dione | O=C(CCCN1C(C2=CC=CC=C2C1=O)=O)C | C13H13NO3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 1-pyridin-2-yl-ethylamine | N1=C(C=CC=C1)C(C)N | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[4-(1-pyridin-2-yl-ethylamino)-pentyl]-isoindole-1,3-dione | N1=C(C=CC=C1)C(C)NC(CCCN1C(C2=CC=CC=C2C1=O)=O)C | C20H23N3O2
